US06423699B1
A mixture of 1-benzyl-6-bromo-1,3-dihydro-benzoimidazol-2-one (0.75 g, 2.5 mmol), 3-chloro-phenyl boronic acid (0.4 g, 2.6 mmol), tetrakis(triphenylphosphine)-palladium (0) (0.23 g, 0.2 mmol), and potassium carbonate (0.72 g, 5.2 mmol) in toluene (15 mL) and H2O (8 mL) was subject to a blanket of nitrogen for 15 minutes at 50° C. and then heated to 85° C. for 1 hour. The reaction mixture was cooled to room temperature and ethyl acetate (100 mL) was added. The organic layer was washed twice with aqueous ammonium chloride (30 mL) and once with brine (30 mL), dried over magnesium sulfate and concentrated. After removal of the solvent, the residue was purified via chromatography (silica gel, 25% ethyl acetate/hexane) to give 1-benzyl-6-(3-chloro-phenyl)-1,3-dihydro-benzoimidazol-2-one as a white solid (0.134 g, 16%): mp 168-169° C.; 1H-NMR (DMSO-d6) δ 11.0 (s, 1H), 7.66 (t, 1H, J=2.05 Hz), 7.58-7.5 (m, 1H), 7.45 (t, 2H, J=8.18 Hz), 7.37-7.22 (m, 7 H), 7.08 (d, 1H, J=8.18 Hz), 5.1 (s, 2H); MS (ES) m/z 333([M−H]−, 100%); Anal. Calc. For C20H15ClN2O: C, 71.75, H, 4.52, N, 8.37. Found: C, 70.27, H, 4.56, N, 8.0.

reactant | 1-benzyl-6-bromo-1,3-dihydro-benzoimidazol-2-one | 2.5 mmol, 0.75 g | C(C1=CC=CC=C1)N1C(NC2=C1C=C(C=C2)Br)=O | C14H11BrN2O
reactant | 3-chloro-phenyl boronic acid | 2.6 mmol, 0.4 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | potassium carbonate | 5.2 mmol, 0.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 8 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)-palladium (0) | 0.2 mmol, 0.23 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-benzyl-6-(3-chloro-phenyl)-1,3-dihydro-benzoimidazol-2-one | 0.134 g, 16% | C(C1=CC=CC=C1)N1C(NC2=C1C=C(C=C2)C2=CC(=CC=C2)Cl)=O | C20H15ClN2O
